US06872805B2
To a mixture of 1-{[1-(2-tert-butoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-spiro[2.3]-hexane-1-carboxylic acid methyl ester (60 mg, 0.084 mmol) in 3 mL of THF, 1.5 mL of MeOH and 0.4 mL of H2O was added LiOH (30 mg, 1.5 mmol). The mixture was stirred at rt for 3 days. It was then concentrated and partitioned between sat. aq. NaHCO3 and ether. The aqueous layer was acidified to pH=4 with dilute HCl, and extracted three times with EtOAc. The combined EtOAc extracts were dried over magnesium sulfate, filtered and concentrated to provide 55 mg of 1-{[1-(2-tert-butoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-spiro[2.3]hexane-1-carboxylic acid as a white solid (93%). LC-MS: (retention time 1.71 min), MS m/z 701 (M++1) (Method D).

reactant | 1-{[1-(2-tert-butoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-spiro[2.3]-hexane-1-carboxylic acid methyl ester | 0.084 mmol, 60 mg | COC(=O)C1(CC12CCC2)NC(=O)C2N(CC(C2)OC2=CC(=NC1=CC(=CC=C21)OC)C2=CC=CC=C2)C(C(C(C)(C)C)NC(=O)OC(C)(C)C)=O | C40H50N4O8
reactant | LiOH | 1.5 mmol, 30 mg | [Li+].[OH-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | H2O | 0.4 mL | O | H2O
product | 1-{[1-(2-tert-butoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-spiro[2.3]hexane-1-carboxylic acid | 55 mg, 93% | C(C)(C)(C)OC(=O)NC(C(=O)N1C(CC(C1)OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1)C(=O)NC1(CC12CCC2)C(=O)O)C(C)(C)C | C39H48N4O8
